US05723450
4-(4-tert-Butylanilino)-3-methoxy-2-methylpyridine
7.9 g of 4-chloro-3-methoxy-2-methylpyridine and 22.4 g of 4-tert-butylaniline are heated at 120° C. for 8 hours in 20 g of phenol. After cooling, the mixture is poured into NaOH and the product is extracted using methylene chloride. After concentrating, the excess of amine is distilled off in vacuo and the residue is crystallized using hexane. 9.5 g=55%

reactant | 4-chloro-3-methoxy-2-methylpyridine | 7.9 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
reactant | 4-tert-butylaniline | 22.4 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | NaOH | [OH-].[Na+]
solvent | phenol | 20 g | C1(=CC=CC=C1)O | C6H6O
product | 4-(4-tert-Butylanilino)-3-methoxy-2-methylpyridine | C(C)(C)(C)C1=CC=C(NC2=C(C(=NC=C2)C)OC)C=C1 | C17H22N2O
